US05367094
There are many possible methods for hydrogenating the hydroxyl group at benzyl position of APPD. For example, U.S. Pat. No. 3,084,099 issued to Hays et al. describes a method of preparing 1-benzyl-iso-propyl amine from 1phenyl-2-methyl-2-amino-propanol by hydrogenation in 57% hydriodic acid with red phosphorous. However, the strongly acidic condition of this system may induce iodination of other hydroxyl groups. In fact, the hydrogenation of APPD in the above conditions produced 1-phenyl-2-amino-3-iodopropane instead of phenylalaninol, as disclosed in Japanese Patent 3910914. Other approaches were made by two independent groups, Boerner et al. prepared D-phenylalaninol from L(+)-APPD by 4 steps with a total yield of 31% (Pharmazie 45, 531 (1990)). On the other hand, the hydrogenation of L(+)-APPD in the presence of sulfuric acid was found to give D-phenylalaninol (D-PAO)in 73-85% yield (Hashizume, Japanese Patent 63255254). It is obvious that the latter is quite cost-effective. However, in this process, it is necessary to use excess amounts of base to neutralize the reaction mixture for the recovery of D-PAO because an excess amount of sulfuric acid is used. When the pH of the reaction mixture is adjusted to above 11, large amounts of salts are produced and some of them, including small amount of D-PAO, are precipitated. This phenomenon makes the work-up process very complicated. Furthermore, it makes it impossible to derivatize phenylalaninol into desired forms such as N-terminal blocked phenylalaninols without isolation of phenylalaninol.

reactant | 1-benzyl-iso-propyl amine | C(C1=CC=CC=C1)C(C)(C)N | C10H15N
reactant | 1phenyl-2-methyl-2-amino-propanol | C1(=CC=CC=C1)C(C(C)(N)C)O | C10H15NO
reactant | hydriodic acid | I | HI
product | 1-phenyl-2-amino-3-iodopropane | yield of 31% | C1(=CC=CC=C1)CC(CI)N | C9H12IN
